US09126931B2
2-(4-Isopropoxy-3-methoxy-phenyl)-2-methyl-propionic acid
2-(4-Isopropoxy-3-methoxy-phenyl)-2-methyl-propionic acid ethyl ester (Compound L3-1, 1.45 g, 5.17 mmol) was dissolved in THF (13 mL) and EtOH (13 mL), added with 1 N aqueous solution of sodium hydroxide (10.3 mL, 2.0 eq.), and stirred at 80° C. overnight. The reaction solution was added to water and extracted with ethyl acetate. The aqueous layer was acidified by using 1 N aqueous solution of hydrochloric acid, extracted with ethyl acetate, washed with saturated brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the target compound (white solid, 1.10 g, 84%).

reactant | 2-(4-Isopropoxy-3-methoxy-phenyl)-2-methyl-propionic acid ethyl ester | 5.17 mmol, 1.45 g | C(C)OC(C(C)(C)C1=CC(=C(C=C1)OC(C)C)OC)=O | C16H24O4
reactant | sodium hydroxide | 10.3 mL, 2.0 eq. | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | EtOH | 13 mL | CCO | C2H6O
product | 2-(4-Isopropoxy-3-methoxy-phenyl)-2-methyl-propionic acid | C(C)(C)OC1=C(C=C(C=C1)C(C(=O)O)(C)C)OC | C14H20O4
